US04687775
2-[[(2-phenylimidazo[1,2-a]pyridin-8-yl)methyl]thio]-1H-benzimidazole
A mixture of 1.24 g (10 mmole) of 3-hydroxymethyl-2-pyridinamine and 2.0 g (10 mmole) of α-bromoacetophenone in 25 ml of ethanol was stirred at room temperature. After 18 hours the resultant solid was collected, washed with ethano, and dissolved in water. The solution was made basic with aqueous potassium carbonate and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with diethyl ether, collected by filtration, washed with diethyl ether, and air dried to yield 1.4 g of 8-hydroxymethyl-2-phenylimidazo[1,2-a]pyridine, as confirmed by the nmr and infrared spectra and by elemental analysis. [Calcd. for C14H12N2O2 : C, 74.98; H, 5.39; N, 12.49. Found: C, 74.68; H, 5.39; N, 12.40.] A mixture of 871 mg (5.8 mmole) of 2-mercaptobenzimidazole and 1.3 g (5.8 mmole) of 8-hydroxymethyl-2-phenylimidazo[1,2-a]pyridine was dissolved in 10 ml of 47% aqueous hydrobromic acid and 10 ml of acetic acid and heated to reflux. After being cooled to room temperature, the mixture was poured into water, made alkaline with potassium carbonate, and extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Trituration of the residue with diethyl ether yielded 1.8 g of the analytically pure title compound. Structure assignment was supported by the nmr and infrared spectra and by elemental analysis.

reactant | 2-mercaptobenzimidazole | 5.8 mmole, 871 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 8-hydroxymethyl-2-phenylimidazo[1,2-a]pyridine | 5.8 mmole, 1.3 g | OCC=1C=2N(C=CC1)C=C(N2)C2=CC=CC=C2 | C14H12N2O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrobromic acid | 10 ml | Br | BrH
solvent | water | O | H2O
product | 2-[[(2-phenylimidazo[1,2-a]pyridin-8-yl)methyl]thio]-1H-benzimidazole | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2CSC2=NC3=C(N2)C=CC=C3)C1 | C21H16N4S
